US09376422B2
To a stirred solution of methyl 3-amino-5-bromo-2-chlorobenzoate (2.8 g, 10.6 mmol) and cyclopentanone (4.47 g, 53.2 mmol) in methanol (20 mL) was added acetic acid (1.3 mL, 21.2 mmol) and the reaction stirred at room temperature for 3 h. Then sodium cyanoborohydride (1.7 g, 26.6 mmol) was added and the reaction stirred overnight. On completion, the solvent was removed under reduced pressure and the product was purified by column chromatography to afford methyl 5-bromo-2-chloro-3-(cyclopentylamino)benzoate (0.5 g, 14.2%).

reactant | methyl 3-amino-5-bromo-2-chlorobenzoate | 10.6 mmol, 2.8 g | NC=1C(=C(C(=O)OC)C=C(C1)Br)Cl | C8H7BrClNO2
reactant | cyclopentanone | 53.2 mmol, 4.47 g | C1(CCCC1)=O | C5H8O
reactant | acetic acid | 21.2 mmol, 1.3 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 26.6 mmol, 1.7 g | C(#N)[BH3-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | methyl 5-bromo-2-chloro-3-(cyclopentylamino)benzoate | 0.5 g, 14.2% | BrC=1C=C(C(=C(C(=O)OC)C1)Cl)NC1CCCC1 | C13H15BrClNO2
